Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
heartburn  
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ with a PMHx of hypertension and CKD III presenting 
with one week of diarrhea and heartburn. His symptoms started 
about 1 week ago when he developed fevers to 100.5, profuse 
watery diarrhea, and cough. These resolved after 3 days and then 
he developed hiccups. These have since resolved as well but now 
he has heartburn symptoms. He is profoundly fatigued and has no 
appetite. He has experienced lightheadedness. He is able to 
drink but not tolerate other PO. No sick contacts, no chest 
tightness, arm/jaw pain, dyspnaa on exertion, nausea, or 
vomiting. His diarrhea has resolved.  

In the ED,  
- Initial VS were 98.6 54 152/92 14 100%  
- He received 1L NS and 40mg IV pantoprazole  
- Labs notable for lipase 80, AST/ALT ___, Na+ 130, K+ 5.2, 
BUN/Cr 64/2.4 (baseline 1.9-2.1), trop < 0.01, bicarb 15 with AG 
11, lipase 92.  
- He was admitted for presumed PUD and ___ on CKD
  
On the floor, he feels better but still fatigued and no 
appetite. He denies weight loss, diaphoresis, melena, 
hematochezia, dysuria.  
 
Past Medical History:
- Hypertension  
- Hyperlipidemia  
- H/o blader cancer ___ years ago  
 
Social History:
___
Family History:
Noncontributory.  

 
Physical Exam:
EXAM ON ADMISSION:
================
Vitals: 98.0 BP 1312 HR 53 RR 18 SaO2 98% on RA  
GENERAL: NAD, lying flat in bed  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
dry MM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

EXAM ON DISCHARGE:
================
Vitals: 98.3 (98.3)  121/68 (111-128/56-68)  65 (64-72)  20  96% 
RA (96-99% RA)   
GENERAL: NAD, lying flat in bed  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
NEURO: grossly intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  
 
Pertinent Results:
LABS ON ADMISSION:
================
___ 11:40AM BLOOD WBC-8.3 RBC-5.49# Hgb-16.6# Hct-47.0 
MCV-86 MCH-30.2 MCHC-35.3* RDW-12.7 Plt ___
___ 11:40AM BLOOD Neuts-65.0 ___ Monos-9.3 Eos-0.8 
Baso-0.4 Im ___
___ 11:40AM BLOOD Glucose-132* UreaN-60* Creat-2.5* Na-131* 
K-5.2* Cl-97 HCO3-20* AnGap-19
___ 11:40AM BLOOD ALT-15 AST-14 AlkPhos-62 TotBili-0.5
___ 08:24PM BLOOD Lipase-96*
___ 11:40AM BLOOD Lipase-80*
___ 11:40AM BLOOD cTropnT-<0.01
___ 08:24PM BLOOD cTropnT-<0.01
___ 11:40AM BLOOD Albumin-4.4 Calcium-10.0 Phos-4.5 Mg-2.7*
___ 11:40AM BLOOD Lactate-1.4

LABS ON DISCHARGE:
================
___ 07:46AM BLOOD WBC-7.6 RBC-4.67 Hgb-14.2 Hct-40.2 MCV-86 
MCH-30.4 MCHC-35.2* RDW-13.7 Plt ___
___ 07:46AM BLOOD Glucose-115* UreaN-41* Creat-2.1* Na-134 
K-4.3 Cl-104 HCO3-18* AnGap-16
___ 07:46AM BLOOD Calcium-8.7 Phos-3.2 Mg-2.2

STUDIES:
================
CHEST (PA & LAT)Study Date of ___ 11:21 AM
IMPRESSION: 
Apparent 7 mm nodule in the right lung base. Recommend CT chest 
to better evaluate.

CT CHEST W/O CONTRASTStudy Date of ___ 1:04 ___
IMPRESSION:
1. No evidence for acute cardiopulmonary abnormalities.
2. Extensive coronary artery disease.
3. Multiple calcified granulomas in both lungs.  No concerning 
pulmonary nodules or opacities.

MICROBIOLOGY: NONE

 
Brief Hospital Course:
BRIEF HOSPITAL COURSE:
====================
___ with hx of HTN and CKD, who p/w a 1-week history of fatigue 
and lack of appetite, in setting of diarrhea/fever/cough, 
followed by burping, followed by heartburn. Felt to have viral 
gastroenteritis, which was responsible for diarrhea/fevers 
(resolved by time of admission), as well as dyspepsia vs. GERD 
vs. PUD, responsible for heartburn/cough/burping. Patient 
started on omeprazole; on the day after admission, patient 
successfully tolerated all meals and felt asymptomatic 
afterwards. 

ACUTE ISSUES:
====================
# Early satiety/Heartburn/Cough/Burping: patient had similar 
complaints in ___ and saw PCP who started omeprazole, 
which helped relieve symptoms. Has since been off. His dyspepsia 
recurred after his PO intake severely declined. He has never had 
an EGD. Does not seem to be cardiac in nature, troponin negative 
x 2, EKG unconcerning. Lipase WNL, not consistent with biliary 
disease. Sx likely due to dyspepsia vs. GERD vs. PUD. Early 
satiety and heartburn may be consistent with dyspepsia type 
picture, though heartburn, cough, and burping may be consistent 
with GERD. Possibly also PUD that is worsening on an empty 
stomach.  Patient started on omeprazole 40 mg, and by morning 
after admission, patient was already feeling better and 
tolerating meals. Patient will continue omeprazole upon 
discharge. PCP to consider ___ Pylori testing and outpatient GI 
follow-up with EGD as outpatient to assess for PUD (given age > 
___). 

# Nausea, diarrhea, poor PO intake (resolved): upon 
presentation, diarrhea had already resolved, and overall 
presentation seemed to be most likely a viral gastroenteritis. 
His poor PO intake persisted until POD1, when he regained his 
appetite without intervention. Not found to be orthostatic ___. 
   

CHRONIC ISSUES:
====================
# CKD: baseline ~Cr 2.1. Presumably ___ HTN. Currently near 
baseline with Cr 2.4. Thought to possibly be prerenal based on 
labs and clinical picture (recent nausea/vomiting and poor PO 
intake), so given 2L NS in ED on floor; Cr downtrended to 2.1 on 
day of discharge. No symptoms to suggest obstruction.  

# Hypertension: metoprolol given while in-house (but tartrate 
equivalent of succinate). Lisinopril initially held due to 
slightly higher Cr than baseline, but restarted after Cr 
normalized. 

TRANSITIONAL ISSUES:
====================
- Restarted on omeprazole for symptomatic relief
- Consider H Pylori testing and outpatient GI follow-up with EGD 
as outpatient to assess for PUD (given age > ___).
- Lisinopril initially held, but restarted once Cr returned to 
baseline
- CT Chest showed extensive CAD

# Code: Full (confirmed)  
# Emergency Contact: Wife, ___, ___  

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcitriol 0.25 mcg PO 3X/WEEK (___) 
2. Lisinopril 5 mg PO DAILY 
3. Metoprolol Succinate XL 50 mg PO DAILY 
4. Rosuvastatin Calcium 10 mg PO QPM 

 
Discharge Medications:
1. Calcitriol 0.25 mcg PO 3X/WEEK (___) 
2. Rosuvastatin Calcium 10 mg PO QPM 
3. Metoprolol Succinate XL 50 mg PO DAILY 
4. Omeprazole 40 mg PO DAILY 
5. Lisinopril 5 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
- Viral gastroenteritis
- Early satiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were seen at ___ because you were found to have fatigue 
and lack of appetite, after a 1-week history of diarrhea and 
heartburn, which had already resolved by the time you had 
arrived. 

We believe your symptoms were caused by two entities: a viral 
illness that caused you to have diarrhea and lack of appetite, 
as well as reflux from your stomach that caused you to have 
"heartburn", cough, and burping.

Your viral illness has resolved, and you have been started on a 
new medication, omeprazole, for the reflux. Please make an 
effort to eat at least three hours before lying down or going to 
sleep.

It was our pleasure taking care of you, and we wish you all the 
___!

Sincerely,

Your ___ Team
 
Followup Instructions:
___